US04559354
4,6-dimethyl-2-(4-hydroxyphenyl)-pyrimidine is reacted with epichlorohydrin in the presence of potassium carbonate analogously to Example 5b). After working up, 4,6-dimethyl-2-[4-(2,3-epoxypropoxy)-phenyl]-pyrimidine is obtained which, after recrystallisation from isopropanol, has a melting point of 88°-90°.

reactant | 4,6-dimethyl-2-(4-hydroxyphenyl)-pyrimidine | CC1=NC(=NC(=C1)C)C1=CC=C(C=C1)O | C12H12N2O
reactant | epichlorohydrin | C(Cl)C1CO1 | C3H5ClO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | 4,6-dimethyl-2-[4-(2,3-epoxypropoxy)-phenyl]-pyrimidine | CC1=NC(=NC(=C1)C)C1=CC=C(C=C1)OCC1CO1 | C15H16N2O2
